US05620979
Preparation of 6-Amino-7-chloro-1,4-dihydro-2,3-quinoxalinedione
To a stirred mixture of 6-nitro-7-chloro-1,4-dihydro-2,3-quinoxalinedione (35 mg, 0.145 mMol) in ethanol (2 mL) was added SnCl2.2H2O (163 mg, 0.724 mMol) in one portion. The mixture was refluxed at 80° C. (oil bath 90° C.) with stirring for 0.5 h to form a clear solution and continually refluxed for another 0.5 h. It was then cooled to room temperature and the yellow precipitate was collected by filtration, followed by washing with cold ethanol (1×1 mL) to give 25 mg (82%) of crude title compound (contains minor impurities by NMR). Crystallization from DMSO/H2O gave 14 mg of pure title compound as bright yellow needles, mp: >350° C. (dec. from 335° C.). IR (KBr, cm-1): 3406, 3356, 3212, 1668, 1637, 1518, 1437. NMR (1H, DMSO-d6): d 5.306 (s, 2H); 6.551 (s, 1H); 6.940 (s, 1H); 11.606 (s, 1H); 11.788 (s, 1H). HRMS: calcd for C8H6N3O2Cl (M+) m/z: 211.0147; found 211.0159. Potency relative to DCK: 28.0%.

reactant | 6-nitro-7-chloro-1,4-dihydro-2,3-quinoxalinedione | 0.145 mMol, 35 mg | [N+](=O)([O-])C=1C=C2NC(C(NC2=CC1Cl)=O)=O | C8H4ClN3O4
reactant | SnCl2.2H2O | 0.724 mMol, 163 mg | O.O.Cl[Sn]Cl
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | 6-Amino-7-chloro-1,4-dihydro-2,3-quinoxalinedione | 14 mg | NC=1C=C2NC(C(NC2=CC1Cl)=O)=O | C8H6ClN3O2
